US08211914B2
To a mixture of 2-chloro-5-nitropyridine (500 mg, 3.2 mmol) and 2-piperazin-1-yl-pyrimidine (520 mg, 3.2 mmol) in DMF (15 mL) was added diisopropylethylamine (2.70 mL, 15.5 mmol). The mixture was heated in a sealed tube at 80° C. for 24 hours. The mixture was concentrated to dryness and triturated in methanol to give 2-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-pyrimidine. The NMR spectrum on this sample is compatible with its structure.

reactant | 2-chloro-5-nitropyridine | 3.2 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-piperazin-1-yl-pyrimidine | 3.2 mmol, 520 mg | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | diisopropylethylamine | 15.5 mmol, 2.70 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | [N+](=O)([O-])C=1C=CC(=NC1)N1CCN(CC1)C1=NC=CC=N1 | C13H14N6O2
